US09056859B2
To a suspension of NaH (60% in oil, 0.8 g, 19 mmol) in DMF (50 mL) was added tert-butyl ethyl (2-methyl-6-nitropyridin-3-yl)propanedioate (4 g, 13 mmol) at room temperature. The mixture was stirred for 1 hour and CH3I (3.7 g, 26 mmol) was added. The mixture was heated to 40° C. for 2 hours. Cooled to ambient temperature, the mixtue was poured to ice/water, extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated and the residue was purified by column chromatograph silca gel to give tert-butyl ethyl rnethyl(2-methyl-6-nitropyridin-3-yl)propanedioate. 1H-NMR (400 MHz, CDCl3) δ 8.01 (d, J=8.6 Hz, 1H), 7.79 (d, J=8.6 Hz, 1H), 4.19-4.27 (m, 2H), 2.59 (s, 3H), 1.85 (s, 3H), 1.45 (s, 9H), 1.28 (t, J=7.0 Hz, 3H).

reactant | NaH | 19 mmol, 0.8 g | [H-].[Na+]
reactant | tert-butyl ethyl (2-methyl-6-nitropyridin-3-yl)propanedioate | 13 mmol, 4 g | CC1=NC(=CC=C1C(C(=O)OC(C)(C)C)C(=O)OCC)[N+](=O)[O-] | C15H20N2O6
reactant | CH3I | 26 mmol, 3.7 g | CI | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl ethyl rnethyl(2-methyl-6-nitropyridin-3-yl)propanedioate | CC(C(=O)OC(C)(C)C)(C(=O)OCC)C=1C(=NC(=CC1)[N+](=O)[O-])C | C16H22N2O6
